US05559106
B. 4-Chloro-1-ethoxycarbonyl-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline
A mixture of 2.0 g (~5.9 mmol) of 3-chloro-2-(2-ethoxalylhydrazino)-6-nitroquinoxaline and 20 ml of phosphorus oxychloride was refluxed for 90 min. After cooling to 50° C. the reaction mixture was poured into ice-water to give 1.7 g (~90%) of the title compound as a precipitate.

reactant | 3-chloro-2-(2-ethoxalylhydrazino)-6-nitroquinoxaline | ~5.9 mmol, 2.0 g | ClC=1C(=NC2=CC=C(C=C2N1)[N+](=O)[O-])NNC(=O)C(=O)OCC | C12H10ClN5O5
solvent | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-ethoxycarbonyl-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline | 1.7 g, ~90% | ClC=1C=2N(C3=CC=C(C=C3N1)[N+](=O)[O-])C(=NN2)C(=O)OCC | C12H8ClN5O4
